US07943645B2
Description 13 (RS)-2-[5-(2-Chloro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-piperidine-1-carboxylic acid tert butyl ester
The title compound (1.65 g) was prepared from 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester (1.35 g), 5-(2-chlorophenyl)tetrazole (1.0 g) and dicyclohexylcarbodiimide (0.16 g) according to the method of description 1.

reactant | 2-carboxymethyl-piperidine-1-carboxylic acid tert butyl ester | 1.35 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC(=O)O | C12H21NO4
reactant | 5-(2-chlorophenyl)tetrazole | 1.0 g | ClC1=C(C=CC=C1)C1=NN=NN1 | C7H5ClN4
reactant | dicyclohexylcarbodiimide | 0.16 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
product | (RS)-2-[5-(2-Chloro-phenyl)-[1,3,4]oxadiazol-2-ylmethyl]-piperidine-1-carboxylic acid tert butyl ester | 1.65 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CC=1OC(=NN1)C1=C(C=CC=C1)Cl | C19H24ClN3O3
